US04710323
Phenyl-(3-amino-4-dimethylaminophenyl) sulfoxide
Following the procedure described in Example 39 but using as a starting material instead of (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide a corresponding amount of phenyl-(4-dimethylamino-3-nitrophenyl) sulfoxide, the title compound is obtained.

reactant | (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)C)S(=O)C1=C(C=C(C=C1)C)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O5S
reactant | phenyl-(4-dimethylamino-3-nitrophenyl) sulfoxide | C1(=CC=CC=C1)S(=O)C1=CC(=C(C=C1)N(C)C)[N+](=O)[O-] | C14H14N2O3S
product | Phenyl-(3-amino-4-dimethylaminophenyl) sulfoxide | Yield: 90% | C1(=CC=CC=C1)S(=O)C1=CC(=C(C=C1)N(C)C)N | C14H16N2OS
